*$
.SUBCKT Si7368DP 4 1 2
M1  3 1 2 2 NMOS W=2520733u L=0.25u     
M2  2 1 2 4 PMOS W=2520733u L=0.55u  
R1  4 3     RTEMP 1.25E-3
CGS 1 2     1350E-12
DBD 2 4     DBD
**************************************************************************
.MODEL  NMOS       NMOS (  LEVEL  = 3               TOX    = 4E-8
+ RS     = 2.2E-3          RD     = 0               NSUB   = 2.06E17   
+ KP     = 1.8E-5          UO     = 650             
+ VMAX   = 0               XJ     = 5E-7            KAPPA  = 1E-3
+ ETA    = 1E-4            TPG    = 1  
+ IS     = 0               LD     = 0                             
+ CGSO   = 0               CGDO   = 0               CGBO   = 0 
+ NFS    = 0.8E12          DELTA  = 0.1)
*************************************************************************
.MODEL  PMOS       PMOS (LEVEL    = 3               TOX    = 4E-8
+NSUB    = 6.5E16          TPG    = -1)           
*********************************************************************
.MODEL DBD D (CJO=760E-12 VJ=0.38 M=0.24
+RS=0.1 FC=0.1 IS=1E-12 TT=5E-8 N=1 BV=20.2)
*************************************************************************
.MODEL RTEMP RES (TC1=7E-3 TC2=5.5E-6)
*************************************************************************
.ENDS
*$