*****************************************************************
* NXP PSMN014-80YL
*
* Polarity N-Channel
* Ratings 80V/1.500000E-002OHMS/62.4449772121117A
*
* Date Created 02 MARCH 2016
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN014-80YL DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 2e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5e-10
RLS2 SOURCE 8 1.25663706143592
RLS1 8 7 0.00018

RDS 7 4 8000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0103914136649594 TC=0.00557684426906735,1.5661376458152E-05
RBD 9 4 0.00106368031374465 TC=0.00557684426906735,1.5661376458152E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 3.3e-09
RG 1 2 2.02175376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	3463.71
+ -10	3460.33
+ -8	3455.1
+ -6	3446.07
+ -5	3438.18
+ -4	3424.25
+ -3	3389.06
+ -2	3079.69
+ -1	1855.51
+ -0.5	1140.89
+ -0.2	632.167
+ -0.1	623.232
+ 0	472.47
+ 0.1	379.30328
+ 0.2	378.91868
+ 0.5	317.89084
+ 1	231.41556
+ 2	165.24064
+ 3	153.6722
+ 4	149.40168
+ 5	146.5608
+ 6	142.6668
+ 8	136.74944
+ 10	132.3512
+ 12	128.84216
+ 15	124.41196
+ 16	123.04696
+ 20	118.44528
+ 25	113.6276
+ 30	109.61716
+ 50	99.29905



.MODEL MINT NMOS(Vto=2.07452036088534 Kp=2.396100e+002 Nfs=370000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=1.0919562239986e-12
+ N=1 M=0.66 VJ=0.69 Fc=0.5 Cjo=1.2363592e-09 Tt=2.582924e-08)

.ENDS
