* source FLYBACK
L_L1         N15373 N14585  2.34u  
L_L2         0 N15537  150u  
Kn_K1         L_L1 L_L2     1
V_V1         N18048 0 5Vdc
C_C1         0 N14512  100n  TC=0,0 
V_V2         N14849 0  
+PULSE 0 5 0 10n 10n 1.64u 4u
R_R1         0 N14512  9k TC=0,0 
R_R2         N15373 N17933  0.013 TC=0,0 
R_R3         N15537 N21940  0.818 TC=0,0 
C_C2         0 N17933  10u  TC=0,0 
R_R4         N17933 N18048  10m TC=0,0 
R_R5         N18352 N14849  1 TC=0,0 
X_U1         N14585 N18352 0 DMT6030LFCL
D_D1         N21270 N14512 SBR1U400P1 
C_C3         N14512 N21266  30p  TC=0,0 
R_R6         N21266 N21270  800 TC=0,0 
D_D2         N14585 N21671 BAS70 
X_D3         N17933 N21671 Zener_parameterized PARAMS: VZT=25 RSF=100m
L_L3         N21940 N21270  6u  
