* source FLYBACK
L_L1         N15373 VSW  15uH  
L_L2         0 N15537  3375u  
Kn_K1         L_L1 L_L2     1
V_V1         N15366 0 5Vdc
C_C1         0 N14510  1u  TC=0,0 
D_D1         N15460 N14510 Dbreak 
X_S2    N14849 0 VSW 0 SCHEMATIC1_S2 
V_V2         N14849 0  
+PULSE 0 1 0 10n 10n 2.68u 4u
R_R1         0 N14510  10k TC=0,0 
R_R2         N15373 N15366  1 TC=0,0 
R_R3         N15537 N15460  25 TC=0,0 

.subckt SCHEMATIC1_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=100m Voff=0.0V Von=1.0V
.ends SCHEMATIC1_S2
