* source FLYBACK
V_V1         N15958 0 5Vdc
R_R3         N16112 N15968  25 TC=0,0 
R_R1         0 N15978  8.5k TC=0,0 
L_L1         N16096 N16545  15uH  
R_R2         N16096 N15958  1 TC=0,0 
Kn_K1         L_L1 L_L2     1
L_L2         0 N16112  3375u  
D_D1         N15968 N15978 Dbreak 
C_C1         0 N15978  1u  TC=0,0 
X_U1         N16545 N16545 0 N16545 N15958 N15958 N17815 0 0 0 0 0 0 0 N17348
+  N17680 N18548 TPS55330_TRANS PARAMS: SS={SS}
R_R4         N17348 0  200k TC=0,0 
R_R5         N17680 N15978  1.3Meg TC=0,0 
R_R6         0 N17680  10k TC=0,0 
C_C2         0 N17815  47p  TC=0,0 
